US05854257
A mixture of 2,5-dichloronicotinic acid (30.0 g) and 4-methoxybenzylamine (41.0 ml) was heated at 150° C. under nitrogen for 2 hours. The mixture was cooled to ambient temperature, dissolved in boiling water, acidified to pH 6 and filtered. The collected solid was dried, boiled up with IMS, then filtered to give 5-chloro-2-(4-methoxybenzylamino)nicotinic acid, m.p. 204°-206° C.

reactant | 2,5-dichloronicotinic acid | 30.0 g | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | 4-methoxybenzylamine | 41.0 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | water | O | H2O
product | 5-chloro-2-(4-methoxybenzylamino)nicotinic acid | ClC=1C=NC(=C(C(=O)O)C1)NCC1=CC=C(C=C1)OC | C14H13ClN2O3
